US07847101B2
2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid 4-methoxybenzylamide (551-12B):
the title compound (15 mg) was prepared from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride (100 mg, 0.30 mmol), 4-methoxybenzylamine (79 μL, 0.60 mmol) and PS-NMM (0.320 g, 0.60 mmol) in 5 mL of methanol. MS (m/z, ES+): 430.5 (M+1, 100%). Yield=11%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride | 0.30 mmol, 100 mg | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C11H9ClN4O2S2
reactant | 4-methoxybenzylamine | 0.60 mmol, 79 μL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | NMM | 0.60 mmol, 0.320 g | CN1CCOCC1 | C5H11NO
solvent | methanol | 5 mL | CO | CH4O
product | 2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid 4-methoxybenzylamide | 15 mg, Yield=11% | COC1=CC=C(CNS(=O)(=O)C2=CC3=C(N=C(S3)C=3C(=NNC3N)C)C=C2)C=C1 | C19H19N5O3S2
